US08791255B2
The product is prepared according to the procedure described in example 5, using 177 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 236 mg of 3,3-dimethylindoline (which can be prepared according to T. W. Ramsay et al., Synth. Commun. 1995, 25, 4029) and 169 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 0.11 ml of pyridine and 5 ml of N,N-dimethylformamide. The reaction mixture is stirred for 15 h at ambient temperature and then concentrated to dryness under reduced pressure. 40 ml of water are added to the residue and triturated with a spatula at ambient temperature. The precipitate formed is filtered off, and then solubilized with a dichloromethane/methanol mixture and dried. After concentration to dryness under reduced pressure, the crude product is purified by chromatography on a 30 g silica (0.02-0.045 mm) column, eluent: 90/10 v/v dichloromethane/methanol. After the various fractions have been evaporated, the pink solid residue is triturated from 10 ml of diisopropyl ether, filtered off, and then dried under a bell jar (1 h/40° C./20 mbar). 134 mg of 2-[2-(3,3-dimethyl-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one are thus obtained in the form of a pink solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 177 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3,3-dimethylindoline | 236 mg | CC1(CNC2=CC=CC=C12)C | C10H13N
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 169 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 0.11 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(3,3-dimethyl-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one | 134 mg | CC1(CN(C2=CC=CC=C12)C(CC1=NC(=CC(N1)=O)N1CCOCC1)=O)C | C20H24N4O3
